US08470841B2
N-{3-[4-(6-Hydroxypyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide (150 mg, 0.5 mmol) was stirred with potassium tert-butoxide (168 mg, 1.5 mmol) and benzylbromide (342 mg, 2 mmol) in 3 ml of NMP at room temperature for 10 h. The batch was admixed with ethyl acetate and water, and the organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 22 mg (11%), M+H+: 391.15. N-{3-[4-(1-Benzyl-6-oxo-1,6-dihydropyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide was obtained as by-product.

reactant | N-{3-[4-(6-Hydroxypyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide | 0.5 mmol, 150 mg | OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C17H20N2O3
reactant | potassium tert-butoxide | 1.5 mmol, 168 mg | CC(C)([O-])C.[K+]
reactant | benzylbromide | 2 mmol, 342 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-{3-[4-(1-Benzyl-6-oxo-1,6-dihydropyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide | C(C1=CC=CC=C1)N1C=C(C=CC1=O)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C24H26N2O3
